US07834051B2
tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}propanoyl)cyclopropanecarboxylate
A solution of diisopropylamine (0.740 mL) in THF (25 mL) was cooled to −78° C., n-butyllithium-hexane solution (3.26 mL, 1.6 mol/L) was added dropwise and, after the completion of the dropwise addition, the mixture was stirred at −78° C. for 1 hr. Subsequently, a solution of tert-butyl cyclopropanecarboxylate (0.800 g) in THF (5 mL) was added dropwise, and the mixture was further stirred at −78° C. for 30 min. A solution of benzyl(4S)-4-methyl-2,5-dioxo-1,3-oxazolidine-3-carboxylate (1.00 g) in THF (10 mL) was added dropwise at −78° C. over 10 min, and the mixture was further stirred at −78° C. for 30 min. Acetic acid (2.0 mL) was added to the reaction mixture and, after warming to room temperature, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=50/1→1/1) to give the title compound as a colorless oil (yield: 401 mg, 29%).

reactant | diisopropylamine | 0.740 mL | C(C)(C)NC(C)C | C6H15N
reactant | tert-butyl cyclopropanecarboxylate | 0.800 g | C1(CC1)C(=O)OC(C)(C)C | C8H14O2
reactant | benzyl(4S)-4-methyl-2,5-dioxo-1,3-oxazolidine-3-carboxylate | 1.00 g | C[C@@H]1N(C(OC1=O)=O)C(=O)OCC1=CC=CC=C1 | C12H11NO5
reactant | Acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}propanoyl)cyclopropanecarboxylate | yield: 401 mg, 29% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)C1(CC1)C(=O)OC(C)(C)C)C | C19H25NO5
